US06743924B2
1,2,3-Triazole (1623 mg, 23.5 mmol), sodium iodide (2353 mg, 15.7 mmol) and sodium hydroxide (940 mg, 23.5 mmol) were added to t-amyl alcohol (6.2 ml), and the mixture was refluxed under stirring for 1 hour. 1-Chloro-4-phenylbutane (2648 mg, 15.7 mmol) was dissolved in t-amyl alcohol (6.2 ml) and added dropwise under reflux over 1 hour. The mixture was refluxed under stirring for 2 hours and cooled to room temperature, and toluene (50 ml) was added. The mixture was washed with water (50 ml×2), dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=4/1→1/3) to give 1-(4-phenylbutyl)-1H-1,2,3-triazole (2.56 g) as colorless oil. yield 81%. 2-(4-Phenylbutyl)-2H-1,2,3-triazole (360 mg) was obtained as a colorless oil (yield 11%). 1-(4-phenylbutyl)-1H-1,2,3-triazole

reactant | 1,2,3-Triazole | 23.5 mmol, 1623 mg | N1N=NC=C1 | C2H3N3
reactant | sodium iodide | 15.7 mmol, 2353 mg | [I-].[Na+]
reactant | sodium hydroxide | 23.5 mmol, 940 mg | [OH-].[Na+]
reactant | 1-Chloro-4-phenylbutane | 15.7 mmol, 2648 mg | ClCCCCC1=CC=CC=C1 | C10H13Cl
solvent | t-amyl alcohol | 6.2 ml | C(C)(C)(CC)O | C5H12O
solvent | t-amyl alcohol | 6.2 ml | C(C)(C)(CC)O | C5H12O
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(4-phenylbutyl)-1H-1,2,3-triazole | 2.56 g, yield 81% | C1(=CC=CC=C1)CCCCN1N=NC=C1 | C12H15N3
